datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([O:18])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])[H:9])([H:5])([H:6])[H:7].[H:8][O:18][C:17]([H:19])([H:20])[H:21],20.92
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[H:8].[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[H:16])[H:8],9.45584
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])[C:7]([H:22])([H:23])[C:8]1([H:24])[H:25])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:26][O:27]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([O:26][O:27])[C:7]([H:22])([H:23])[C:8]1([H:24])[H:25])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11],-6.250896
[H:1].[c:2]1([H:4])[c:5]([H:6])[c:7]2[c:9]([c:10]([H:11])[c:12]1[H:14])[C:15]([H:16])=[C:17]([H:18])[C:19]2([H:21])[H:22]>>[H:1][C:9]12[C:7]([C:5]([H:6])=[C:2]([H:4])[C:12]([H:14])=[C:10]1[H:11])[C:19]([H:21])([H:22])[C:17]([H:18])=[C:15]2[H:16],31.082936
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][O:18]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])[H:9])([H:5])([H:6])[H:7].[H:8][O:17][O:18],209.86944
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([C:7]([C:8]([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:9]>>[C:0](#[C:1][C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[C:7]([H:18])([H:19])[C:8]1([H:20])[H:21])[H:9],78.199
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][H:15],0.4184
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7](=[C:8]([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0]([S:1][H:5])([H:3])[H:4].[H:2][C:6]([C:7](=[C:8]([H:12])[H:13])[H:11])([H:9])[H:10],65.6888
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4](=[C:5]([C:6]([C:7](=[C:8]([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:22])([H:20])[H:21])[H:19])[H:18])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([C:3]([H:15])([H:16])[H:17])[C:4]([H:18])=[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]1([C:8]([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:22])[H:14])([H:12])[H:13],116.985
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])[H:12])([O:6][O:7][H:16])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1](=[C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])[H:12])[H:11])([H:8])([H:9])[H:10].[O:6][O:7][H:16],64.1185448
[C:0]([C:1]([N+:2](=[O:3])[O-:4])([H:8])[H:9])([H:5])([H:6])[H:7].[C:10]([H:11])([H:12])[H:13]>>[C:0]([C:1]([N+:2](=[O:3])[O-:4])[H:9])([H:5])([H:6])[H:7].[H:8][C:10]([H:11])([H:12])[H:13],33.254432
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[S:3][H:10])([H:4])([H:5])[H:6].[S:11]=[C:12]([S:13][H:15])[H:14]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([S:3][H:10])[H:14])([H:4])([H:5])[H:6].[S:11]=[C:12][S:13][H:15],94.0145
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10](=[C:11][C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0](#[C:1][C:2](=[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[C:11](=[C:10]([H:13])[H:14])[C:12]([H:15])([H:16])[H:17])[H:6],6.15048
[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[H:11]>>[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:6])[H:7].[H:5][H:11],26.27552
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([H:9])[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16])[H:8])[H:7])([H:5])[H:6],14.3511
[C:0](#[N:1])[H:2].[H:3]>>[C:0](=[N:1])([H:2])[H:3],31.2126
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[H:8]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:4].[S:3]([H:7])[H:8],12.1336
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[O:8]([H:9])[H:10]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[O:8][H:10])([H:3])[H:4].[H:9],155.106
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[C:8][C:9]([H:12])([H:13])[H:14])([H:10])[H:11]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:8](=[C:7]([H:10])[H:11])[C:9]([H:12])([H:13])[H:14],1.6736
[C:0]([C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([O:5][C:6]([C:7]([H:20])([H:21])[H:22])=[O:8])[H:16])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2](=[C:3]([C:4]([H:17])([H:18])[H:19])[H:16])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:5]=[C:6]([C:7]([H:20])([H:21])[H:22])[O:8][H:14],183.2592
[C:0](=[O:1])([H:2])[H:3].[C:4]#[N:5]>>[C:0](=[O:1])[H:3].[H:2][C:4]#[N:5],-5.970568
